US06380242B1
(i) 6-Bromo-(1-Methanesulphonyl)-1H-indole
To a solution of 6-Bromoindole (1.82 g, 9 mmol) in DMF at 0° C. was added NaH (446 mg, 18 mmol). The mixture was allowed to warm to room temperature and stirred for 15 min. The reaction was then cooled to 0° C., MeSO2Cl (1.55 g, 13.5 mmol) added and the mixture stirred at this temperature for 1.5 h before being quenched with ice and diluted with ethyl acetate. The organic extract was washed with brine and dried over anhydrous Na2SO4. The crude residue was purified by flash chromatography to give the title product as a white solid (782 mg, 29% yield).

reactant | 6-Bromoindole | 9 mmol, 1.82 g | BrC1=CC=C2C=CNC2=C1 | C8H6BrN
reactant | NaH | 18 mmol, 446 mg | [H-].[Na+]
reactant | MeSO2Cl | 13.5 mmol, 1.55 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | DMF | CN(C)C=O | C3H7NO
product | 6-Bromo-(1-Methanesulphonyl)-1H-indole | 782 mg, 29% yield | BrC1=CC=C2C=CN(C2=C1)S(=O)(=O)C | C9H8BrNO2S
